US07642361B2
5-Amino-3-(4-tert-butyl-phenyl)-4-cyano-thiophene-2-carboxylic acid methyl ester
Combine 5-azido-3-(tert-butyl-phenyl)-4-cyano-thiophene-2-carboxylic acid methyl ester (0.309 mmol) and THF at room temperature and add a fresh THF solution of 0.1M SmI (0.93 mmol). Stir the reaction for 15 minutes and quench with 2M sodium carbonate solution until pH was greater than 9.0. Dilute the reaction with ethyl acetate and wash successively with 2M sodium carbonate, water, and brine. Separate the organics, dry over sodium sulfate, filter, and concentrate to give the title compound as a dark solid: 1H NMR (400 MHz, CDCl3) δ 7.46-7.36 (m, 4H), 5.23 (s, 2H), 3.71 (s, 3H), 1.36 (s, 9H), MS found (M+1) 315.1.

reactant | 5-azido-3-(tert-butyl-phenyl)-4-cyano-thiophene-2-carboxylic acid methyl ester | 0.309 mmol | COC(=O)C=1SC(=C(C1C1=C(C=CC=C1)C(C)(C)C)C#N)N=[N+]=[N-] | C17H16N4O2S
solvent | THF | C1CCOC1 | C4H8O
product | 5-Amino-3-(4-tert-butyl-phenyl)-4-cyano-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C(C)(C)C)C#N)N | C17H18N2O2S
